US08115378B2
3,6,9,12-Tetrakis-(4-tert-butyl-phenyl)-chrysene
3,6,9,12-Tetrabromo-chrysene (5.0 g, 0.00919 mol), 4-tert-butylphenylboronic acid (9.82 g, 0.0552 mol), tris(dibenzylideneacetone) dipalladium(0) (1.26 g, 0.00138 mol), di-tert-butyl-trimethylsilylmethyl-phosphane (0.62 g, 0.02670 mol), cesium carbonate (17.97 g, 0.0552 mol) and 1,4-dioxane (100 ml) were refluxed for 48 h. The resultant mixture was poured into 200 ml of water and extracted twice by 200 ml of methylene chloride. The organic phase was dried over magnesium sulfate overnight and filtered. The solvent was removed on a rotary evaporator and the residue was purified by chromatography on silica gel with petroleum ether/ethyl ether (10/0.5) as eluant. Yield of 3,6,9,12-tetrakis-(4-tert-butyl-phenyl)-chrysene was 2.05 g (30%) as a white solid with m.p. 376.48° C. 1H NMR (CD2Cl2) 1.30 (s, 9H, t-Bu), 1.35 (s, 9H, t-Bu), 1.50 (s, 18H, t-Bu), 7.60-9.20 (m, 24H, arom.-H). GC/MS (direct probe): Exact mass found: 756.47. The pattern of the substitution of the chrysene ring was confirmed by X-ray analysis.

reactant | 3,6,9,12-Tetrabromo-chrysene | 0.00919 mol, 5.0 g | BrC=1C=CC=2C(=CC3=C4C=C(C=CC4=C(C=C3C2C1)Br)Br)Br | C18H8Br4
reactant | 4-tert-butylphenylboronic acid | 0.0552 mol, 9.82 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
reactant | di-tert-butyl-trimethylsilylmethyl-phosphane | 0.02670 mol, 0.62 g | C(C)(C)(C)P(C[Si](C)(C)C)C(C)(C)C | C12H29PSi
reactant | cesium carbonate | 0.0552 mol, 17.97 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone) dipalladium(0) | 0.00138 mol, 1.26 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | water | 200 ml | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3,6,9,12-Tetrakis-(4-tert-butyl-phenyl)-chrysene | C(C)(C)(C)C1=CC=C(C=C1)C=1C=CC=2C(=CC3=C4C=C(C=CC4=C(C=C3C2C1)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C)C1=CC=C(C=C1)C(C)(C)C | C58H60
